* C:\Users\Parry\Documents\GitHub\BCIT-BAJA\testing\LTSPICE_SIMS\powerSupplyMeasurement.asc
* Generated by LTspice 24.1.7 for Windows.
V1 BatteryVoltage 0 16
V2 Enable 0 3.3
R2 BatteryVoltage N001 10K
M1 N001 Enable 0 0 BSB012N03LX3
M3 N002 N001 BatteryVoltage BatteryVoltage IRF7204
R§33K BatteryMeasurement 0 33K
R3 N002 BatteryMeasurement 150K
R1 Enable 0 10K
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\Parry\AppData\Local\LTspice\lib\cmp\standard.mos
.tran 25
.backanno
.end
