* C:\Users\Parry\Documents\GitHub\BCIT-BAJA\testing\LTSPICE_SIMS\powerSupplyMeasurement.asc
* Generated by LTspice 24.1.7 for Windows.
V1 BatteryVoltage 0 16
V2 Enable 0 PULSE(0 3.3 3 0.1u 0.1 1 3)
R2 BatteryVoltage N001 10K
M1 N001 Enable 0 0 IRLML6246
M3 N002 N001 BatteryVoltage BatteryVoltage Si4542DY_P
R§330 BatteryMeasurement 0 3.3K
R3 N002 BatteryMeasurement 15K
R1 Enable 0 10K
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\Parry\AppData\Local\LTspice\lib\cmp\standard.mos
.tran 25
* Test INPUTS:\nchanged battery voltage from 6V, 16V\nChecked to see enable enables battery measurement circuit on and Off
* https://www.digikey.ca/en/products/detail/onsemi/NVTR01P02LT1G/5969313?gclsrc=aw.ds&&utm_adgroup=General&utm_source=google&utm_medium=cpc&utm_campaign=PMax%20Shopping_Product_Zombie%20SKUs&utm_term=&productid=5969313&utm_content=General&utm_id=go_cmp-17855401585_adg-_ad-__dev-c_ext-_prd-5969313_sig-CjwKCAjwq7fABhB2EiwAwk-YbCdzxZ8I_ROXJb3JHufdx-zHWTW_khwVTeU3PeYqFBXyUwEnEgnIlhoCDXMQAvD_BwE&gad_source=1&gbraid=0AAAAADrbLli6YGlW8y5wc6i5rQyT2Z2qc&gclid=CjwKCAjwq7fABhB2EiwAwk-YbCdzxZ8I_ROXJb3JHufdx-zHWTW_khwVTeU3PeYqFBXyUwEnEgnIlhoCDXMQAvD_BwE&gclsrc=aw.ds
* https://www.digikey.ca/en/products/detail/onsemi/NTR4003NT3G/1967271?gclsrc=aw.ds&&utm_adgroup=General&utm_source=google&utm_medium=cpc&utm_campaign=PMax%20Shopping_Product_Zombie%20SKUs&utm_term=&productid=1967271&utm_content=General&utm_id=go_cmp-17855401585_adg-_ad-__dev-c_ext-_prd-1967271_sig-CjwKCAjwq7fABhB2EiwAwk-YbFJqpYQlYIhkgtWqhIxcVob4GPSdEPXc6bIcNIfS9s96qRU90U7eOhoCR2AQAvD_BwE&gad_source=1&gbraid=0AAAAADrbLli6YGlW8y5wc6i5rQyT2Z2qc&gclid=CjwKCAjwq7fABhB2EiwAwk-YbFJqpYQlYIhkgtWqhIxcVob4GPSdEPXc6bIcNIfS9s96qRU90U7eOhoCR2AQAvD_BwE&gclsrc=aw.ds
.backanno
.end
