* C:\Users\Parry\Documents\BCIT-BAJA\testing\LTSPICE_SIMS\powerSupplyMeasurement.asc
* Generated by LTspice 24.1.9 for Windows.
V1 BatteryVoltage 0 SINE(11 5 1)
V2 Enable 0 PULSE(0 3.3 3 0.1u 0.1 2 3)
R2 BatteryVoltage N001 10K
M1 N001 Enable 0 0 Si5515_N
M3 N002 N001 BatteryVoltage BatteryVoltage Si4451DY
R3 N002 BatteryMeasurement 1.5K
R1 Enable 0 10K
R4 BatteryMeasurement 0 330
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\Parry\AppData\Local\LTspice\lib\cmp\standard.mos
.tran 25
* Test INPUTS:\nchanged battery voltage from 6V, 16V\nChecked to see enable enables battery measurement circuit on and Off
.backanno
.end
